US08487093B2
Step 4: (2S,5R)-7-oxo-N-piperidin-4-yl-6-(sulfooxy)-1,6-diazabicyclo[3.2.1]octane-2-carboxamide
To a solution of N,N,N-tributylbutan-1-aminium [({(2S,5R)-7-oxo-2-[(piperidin-4-ylamino)carbonyl]-1,6-diazabicyclo[3.2.1]oct-6-yl}oxy)sulfonyl]oxidanide (22.4 mg, 0.050 mmol) in anhydrous dichloromethane (2 mL) at 0° C. under nitrogen was added trifluoroacetic acid (0.1 mL, 1.298 mmol) dropwise. The reaction mixture was stirred for 1 hour then concentrated under vacuum. Ether was added to the residue and the resulting white precipitate was collected by centrifugation. The solid was washed with ether (2× to afford the title compound contaminated with tetrabutylammonium hydrogen sulfate and pyridine. The solid was triturated with acetonitrile (2×) and the white solid was collected by centrifugation to afford the title compound as a white solid. LC-MS (negative ionization) m/e 347 (M−H); LC-MS (positive ionization) m/e 349 (M+H), 381 (M+Na); 1H NMR (600 MHz, D2O; unreferenced) (δ, ppm) 4.19 (1H, br d, J=2.5 Hz), 3.98-4.06 (2H, m), 3.47 (2H, br d, J=13 Hz), 3.31 (1H, br d, J=12 Hz), 3.12 (2H, br dd, J=13, 3 Hz), 3.06 (1H, d, J==12 Hz), 2.04-2.21 (m, 4H), 1.87-1.95 (1H, m), 1.72-1.83 (m, 3H).

reactant | N,N,N-tributylbutan-1-aminium [({(2S,5R)-7-oxo-2-[(piperidin-4-ylamino)carbonyl]-1,6-diazabicyclo[3.2.1]oct-6-yl}oxy)sulfonyl]oxidanide | 0.050 mmol, 22.4 mg | O=C1N([C@@H]2CC[C@H](N1C2)C(=O)NC2CCNCC2)OS(=O)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | trifluoroacetic acid | 1.298 mmol, 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2S,5R)-7-oxo-N-piperidin-4-yl-6-(sulfooxy)-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | O=C1N([C@@H]2CC[C@H](N1C2)C(=O)NC2CCNCC2)OS(=O)(=O)O | C12H20N4O6S
